US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[(6-chloro-2-spiro[chromane-2,4′-piperidine]-6-yl-3H-imidazo[4,5-b]pyridin-7-yl)amino]bicyclo[2.2.1]hept-5-ene-2-carboxamide (Compound CXV)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50 mg, 0.148 mmol) and N-tert-butoxycarbonyl-6-carboxy-3,4-dihydrospiro[2H-1-benzopyran-2,4′-piperidine] (75.4 mg, 0.228 mmol) were reacted. The crude reaction was concentrated, then taken up into 4N HCl/dioxane and heated at 50° C. for 4 hours. The reaction mixture was then concentrated and chromatographed on Gilson HPLC 0-45% CH3CN/H2O. The desired fractions were neutralized with conc. bicarb. Attempted extraction into DCM and EtOAc failed but a solid formed in the sep funnel and was filtered. This solid was 7 mg (6%) of the title compound. mp: >250° C., 1H NMR (300 MHz, DMSO-d6): 13.12 (s, 1H), 7.92 (s, 2H), 7.88 (d, 1H), 7.76 (s, 1H), 7.24 (s, 1H), 7.15 (d, J=8 Hz, 1H), 6.98 (d, J=8 Hz, 1H), 6.38 (s, 2H), 5.15 (t, J=8 Hz, 1H), 3.23 (m, 2H), 3.14 (m, 2H), 2.88 (m, 3H), 2.78 (s, 1H), 2.62 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.96-1.85 (m, 4H), 1.39 (d, J=8 Hz, 1H). MS: 505 (M+H), HPLC: 1.96 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.148 mmol, 50 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | N-tert-butoxycarbonyl-6-carboxy-3,4-dihydrospiro[2H-1-benzopyran-2,4′-piperidine] | 0.228 mmol, 75.4 mg | C(C)(C)(C)OC(=O)N1CCC2(CC1)OC1=C(CC2)C=C(C=C1)C(=O)O | C19H25NO5
product | (1S,2S,3R,4R)-3-[(6-chloro-2-spiro[chromane-2,4′-piperidine]-6-yl-3H-imidazo[4,5-b]pyridin-7-yl)amino]bicyclo[2.2.1]hept-5-ene-2-carboxamide | ClC=1C(=C2C(=NC1)NC(=N2)C=2C=C1CCC3(CCNCC3)OC1=CC2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C27H29ClN6O2
